US04288443
5-[2-(Amino)propoxy]methyl-N,N,3-trimethyl-2-furanmethanamine
A mixture of 5-(dimethylaminomethyl)-4-methyl-2-furanmethanol (1.35 g) and potassium tert-butoxide (0.9 g) in dry dimethylformamide (3 ml) at 0° was treated with a solution of 2-chloropropylamine, hydrochloride (0.4 g) in dry dimethylformamide (2 ml). After 20 minutes at ambient temperature, the mixture was quenched with oxalic acid (2 g) and the solvent removed in vacuo. Excess anhydrous sodium carbonate was added and the product extracted into chloroform. The chloroform extract was purified by filtration and the solvent evaporated in vacuo. The residue was purified by column chromatography (silica, methanol: 0.88 ammonia 19:1) affording the title compound (0.1 g).

reactant | 5-(dimethylaminomethyl)-4-methyl-2-furanmethanol | 1.35 g | CN(C)CC1=C(C=C(O1)CO)C | C9H15NO2
reactant | potassium tert-butoxide | 0.9 g | CC(C)([O-])C.[K+]
reactant | 2-chloropropylamine, hydrochloride | 0.4 g | Cl.ClC(CN)C
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-[2-(Amino)propoxy]methyl-N,N,3-trimethyl-2-furanmethanamine | 0.1 g | NC(COCC1=CC(=C(O1)CN(C)C)C)C | C12H22N2O2
